US08629271B2
a) tert-Butyl 4-(5-methylthiophene-3-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate
O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.91 g) was added to a solution of tert-butyl 1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate hydrochloride (WuXi PharmaTech) (0.5 g), 5-methyl-thiophene-3-carboxylic acid (0.243 g) and triethylamine (0.95 mL) in DMF (10 mL) and the resulting mixture stirred for 16 h. The reaction mixture was poured into brine (40 mL) and extracted with ethyl acetate (3×50 mL). The combined organic solutions were washed with water (150 mL), brine (150 mL), dried over sodium sulphate, filtered and evaporated in vacuo. Purification was by silica gel chromatography eluting with 0-10% methanol in dichloromethane to give the subtitled compound as a clear oil. Yield 0.34 g.

reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.91 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | tert-butyl 1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate hydrochloride | 0.5 g | Cl.O1CCNCC12CCN(CC2)C(=O)OC(C)(C)C
reactant | 5-methyl-thiophene-3-carboxylic acid | 0.243 g | CC1=CC(=CS1)C(=O)O | C6H6O2S
reactant | triethylamine | 0.95 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | brine | 40 mL | [Cl-].[Na+].O
product | tert-Butyl 4-(5-methylthiophene-3-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecane-9-carboxylate | CC1=CC(=CS1)C(=O)N1CCOC2(C1)CCN(CC2)C(=O)OC(C)(C)C | C19H28N2O4S
